US06627629B2
Part E: Preparation of (3R,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-4-{3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-ureido}-piperidine-1-carboxylic acid t-butyl ester
In a dry flask (3R,4R)-4-amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester (350 mg, 0.834 mmol) was dissolved in dimethylformamide (5 mL) and [3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-carbamic acid phenyl ester (285 mg, 0.965 mmol) was added. The reaction mixture was stirred for 19 hours. The reaction mixture was diluted with ethyl acetate and extracted three times with water. The combined aqueous extracts were extracted with ethyl acetate. The combined organic extracts were washed with brine, dried with sodium sulfate, filtered and concentrated in vacuo. The resulting oil was purified by flash column chromatography with 70-100% ethyl acetate/hexanes to give a solid (387 mg, 75%). A small amount was further purified by preparative reverse-phase HPLC (10-80% acetonitrile in water with 0.05% trifluoroacetic acid) to give a white amorphous solid (33 mg, 62%). 1H NMR (300 MHz, CDCl3), δ: 7.88 (m, 1H), 7.49 (m, 2H), 7.40 (m, 1H), 7.19 (m, 1H), 7.01 (m, 1H), 6.95 (m, 1H), 6.86 (m, 1H), 4.31 (m, 1H), 4.17 (s, 3H), 4.03 (m, 4H), 3.16 (m, 1H), 3.05 (m, 1H), 2.88 (m, 3H), 2.67 (m, 1H), 2.50 (m, 2H), 2.37 (m, 1H), 1.95 (m, 1H), 1.65 (m, 5H), 1.47 (s, 9H), 1.23 (m ,1H). HRMS (ESI), C32H42FN8O4 m+/z: calc.=621.3313, found=621.3337.

reactant | (3R,4R)-4-amino-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-piperidine-1-carboxylic acid t-butyl ester | 0.834 mmol, 350 mg | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)N)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C23H34FN3O3
reactant | [3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-carbamic acid phenyl ester | 0.965 mmol, 285 mg | C1(=CC=CC=C1)OC(NC1=CC(=CC=C1)C1=NN=NN1C)=O | C15H13N5O2
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,4R)-3-[(S)-3-(4-fluoro-benzyl)-piperidine-1-carbonyl]-4-{3-[3-(1-methyl-1H-tetrazol-5-yl)-phenyl]-ureido}-piperidine-1-carboxylic acid t-butyl ester | 387 mg, 75% | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H](CC1)NC(=O)NC1=CC(=CC=C1)C1=NN=NN1C)C(=O)N1C[C@@H](CCC1)CC1=CC=C(C=C1)F | C32H41FN8O4
